US04349674
2-[(Propylamino)(propylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid ethyl ester (3.551 g., 0.015 mole) and 2.405 g. (0.015 mole) of 1,3-di-n-propylthiourea were dissolved in acetone and heated at reflux for 11/2 hours. The solution was concentrated to a volume of 50 ml. and cooled. A small amount of solid was removed by filtration. The filtrate was further concentrated to a volume of 25 ml. and ether was added to turbidity. After the reaction mixture had been cooled the yellow solid was collected by filtration to give 2.77 g. (46.6%) of the product, m.p. 129°-130° C.

reactant | 2-Chloro-3-quinoxalinecarboxylic acid ethyl ester | 0.015 mole, 3.551 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)Cl | C11H9ClN2O2
reactant | 1,3-di-n-propylthiourea | 0.015 mole | C(CC)NC(=S)NCCC | C7H16N2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-[(Propylamino)(propylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(=NCCC)NCCC | InChI=1S/C18H24N4O2S.ClH/c1-4-11-19-18(20-12-5-2)25-16-15(17(23)24-6-3)21-13-9-7-8-10-14(13)22-16;/h7-10H,4-6,11-12H2,1-3H3,(H,19,20);1H
